US07612114B2
To a solution of 4-(2-azepan-1-ylethoxy)benzoic acid ethyl ester (6.0 g) in tetrahydrofuran (60 ml) was added lithium aluminum hydride (1.5 g) under a nitrogen atmosphere, the solution was stirred overnight at room temperature, tetrahydrofuran and aqueous ammonia were then sequentially added thereto on an ice bath, the solution was filtered through celite pad, the solvent was evaporated in vacuo to provide [4-(2-azepan-1-ylethoxy)phenyl]methanol (3.6 g). The title compound (194 mg) was obtained according to an analogous synthetic method to Preparation Example 13 using the above compound (200 mg).

reactant | 4-(2-azepan-1-ylethoxy)benzoic acid ethyl ester | 6.0 g | C(C)OC(C1=CC=C(C=C1)OCCN1CCCCCC1)=O | C17H25NO3
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | [4-(2-azepan-1-ylethoxy)phenyl]methanol | 3.6 g | N1(CCCCCC1)CCOC1=CC=C(C=C1)CO | C15H23NO2
